US04267193
N-Ethoxycarbonylmethyl-2,6-Dimethyl-4-(Tetrafluoro-1,3-Dichloro-2-Hydroxy-2-Propyl)Aniline
Combine 2,6-dimethyl-4-(tetrafluoro-1,3-dichloro-2-hydroxy-2-propyl)aniline [Gilbert, et. al., J. Org. Chem., 30, 1001 (1965)] (26 g=0.08 mol) with ethyl bromoacetate (22 g=0.13 mol) and potassium iodide (22 g=0.13 mol) in 150 ml CH3CN. Heat to reflux and add NaHCO3 (13.4 g=0.16 mol). Heat at reflux 20 hours, allow to cool, pour onto water, and extract with Et2O. Wash the Et2O with 10% Na2CO3, then 1 N HCl. Dry over MgSO4 and filter. Add 4 N HCl/Et2O and dilute with an equal volume of hexane. Decant and wash the solid with benzene. Partition the solid between 10% Na2CO3 and Et2O. Dry and concentrate the Et2O. Recrystallize the residue from hexane to obtain the title product as a white solid, melting at about 102°-104° C.

reactant | 2,6-dimethyl-4-(tetrafluoro-1,3-dichloro-2-hydroxy-2-propyl)aniline | 0.08 mol, 26 g | CC1=C(N)C(=CC(=C1)C(C(Cl)(F)F)(C(Cl)(F)F)O)C | C11H11Cl2F4NO
reactant | ethyl bromoacetate | 0.13 mol, 22 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | 0.13 mol, 22 g | [I-].[K+]
reactant | NaHCO3 | 0.16 mol, 13.4 g | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 150 ml | CC#N | C2H3N
product | N-Ethoxycarbonylmethyl-2,6-Dimethyl-4-(Tetrafluoro-1,3-Dichloro-2-Hydroxy-2-Propyl)Aniline | C(C)OC(=O)CNC1=C(C=C(C=C1C)C(C(Cl)(F)F)(C(Cl)(F)F)O)C | C15H17Cl2F4NO3
